US09388176B2
6-[2-(Methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid
A solution of methyl-6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylate (2.76 g, 8.72 mmol) in 1,4-dioxane (50 ml) was treated with 1.0 N NaOH(aq.) (13.09 ml, 13.09 mmol) and the reaction mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo and the residue was diluted with water. The aqueous phase was washed with diethyl ether and acidified to pH˜5-6 with 1.0 N HCl(aq.). The precipitate was collected, washed with water, ethyl acetate, and dried to give the title compound as a yellow, amorphous solid (2.52 g, 96%).

reactant | methyl-6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylate | 8.72 mmol, 2.76 g | COC(=O)C1=NC(=CC=C1)N1CC2=C(N=C(N=C2)SC)CC1 | C15H16N4O2S
reactant | NaOH | 13.09 mmol, 1.0 N, 13.09 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-[2-(Methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylic acid | CSC=1N=CC2=C(N1)CCN(C2)C2=CC=CC(=N2)C(=O)O | C14H14N4O2S
